US05756518
Synthesis of 3-cyano-8-methyl-5-[3-(2-quinolinylmethoxy)benzoyloxy]-1,2-dihydroquinolin-2-one
A liquid mixture of 0.838 g (3 mmol) of 3-(2-quinolinylmethoxy)benzoic acid, 0.601 g (3 mmol) of 3-cyano-5-hydroxy-8-methylcarbostyryl, 50 ml of DMF, 0.931 g (6 mmol) of WSC.HCl and 0.73 g (0.6 mmol) of 4-dimethylaminopyridine was stirred under an argon gas stream at a bath temperature of 50° C. for 2 days. The solvent was distilled off from the reaction mixture under reduced pressure. Water was added to the residue, and the resulting mixture was extracted with a 2:1 mixed solvent of CHCl3 and MeOH. The extract was washed with water, dried over MgSO4 and then concentrated. The concentrate was allowed to stand overnight, whereby 0.495 g of the title compound was obtained as yellow powder (yield: 35.8%).

reactant | 3-(2-quinolinylmethoxy)benzoic acid | 3 mmol, 0.838 g | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C(=O)O)C=CC1 | C17H13NO3
reactant | WSC.HCl | 6 mmol, 0.931 g | CCN=C=NCCCN(C)C.Cl
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.6 mmol, 0.73 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-cyano-8-methyl-5-[3-(2-quinolinylmethoxy)benzoyloxy]-1,2-dihydroquinolin-2-one | 0.495 g | C(#N)C=1C(NC2=C(C=CC(=C2C1)OC(C1=CC(=CC=C1)OCC1=NC2=CC=CC=C2C=C1)=O)C)=O | C28H19N3O4
